US06576656B1
(2) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-(4-morpholinocarbonyl-1-butynyl)-3-hydroxy-3-(2-chlorophenyl)oxindole
The title compound (26.5 mg) was prepared from 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-chlorophenyl)oxindole (35.2 mg, 0.0637 mmol) and 4-morpholinocarbonyl-1-butyne by the procedure similar to that described in Reference Example 21. The hydrochloride of the title compound was obtained by treating with 4 N HCl in dioxane followed by concentration to dryness.

reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2-chlorophenyl)oxindole | 0.0637 mmol, 35.2 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=C(C=CC=C1)Cl)O)=O)CC | C21H21ClF3IN2O2
reactant | 4-morpholinocarbonyl-1-butyne | O1CCN(CC1)C(=O)CCC#C | C9H13NO2
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-(4-morpholinocarbonyl-1-butynyl)-3-hydroxy-3-(2-chlorophenyl)oxindole | 26.5 mg | C(C)N(CCN1C(C(C2=C(C=C(C=C12)C#CCCC(=O)N1CCOCC1)C(F)(F)F)(C1=C(C=CC=C1)Cl)O)=O)CC | C30H33ClF3N3O4
